US07053060B2
To a suspension of methyl 4-(2-hydroxybenzyl)benzoate (1.5 g) and potassium carbonate (0.94 g) in N,N-dimethylformamide (200 mL) was added benzylbromide (0.81 mL), and the mixture was stirred at 50° C. for 5 hours. An insoluble material was removed by filtration, water and dilute hydrochloric acid was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) to give methyl 4-(2-benzyloxybenzyl)benzoate (2.1 g).

reactant | methyl 4-(2-hydroxybenzyl)benzoate | 1.5 g | OC1=C(CC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C15H14O3
reactant | potassium carbonate | 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 0.81 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | methyl 4-(2-benzyloxybenzyl)benzoate | 2.1 g | C(C1=CC=CC=C1)OC1=C(CC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C22H20O3
